US04496551
Preparation of (1,1'-Biphenyl-4-yl)(chloromethyl)dimethylsilane
A solution of 9.9 g (0.042 mol) of 4-bromobiphenyl in 50 ml of dry tetrahydrofuran was cooled to -78° under nitrogen and stirred while 26.5 ml (0.042 mol) of 1.6 molar n-butyllithium in hexane was added dropwise over 15 minutes. A thick slurry formed, and 35 ml of tetrahydrofuran was added to facilitate stirring. With continued cooling, 5.9 ml (6.7 g, 0.046 mol) of chloro(chloromethyl)dimethylsilane was added over 10 minutes, giving a clear solution that was allowed to warm to room temperature. Addition of 300 ml of ether, filtration to remove precipitated lithium chloride, and evaporation of the filtrate left 13.2 g of semisolid. Redissolution in ether, filtration, and evaporation of the filtrate left 11.0 g (100% crude) of the title compound as a colorless solid, m.p. 30°-40°, suitable for further reaction. Trace impurities could be removed by sublimation at 30°/0.1 mm, leaving the title compound unsublimed in 83% recovery: m.p. 37°-40°; ir (NujolR) 1585, 1240, 1110, 830, 810, 750, 690 cm-1 ; nmr (CDCl3) 0.4 (6H, s), 2.9 (2H, s), 7.3-7.7 (9H, m).

reactant | 4-bromobiphenyl | 0.042 mol, 9.9 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | n-butyllithium | 0.042 mol, 1.6 molar, 26.5 ml | C(CCC)[Li]
reactant | chloro(chloromethyl)dimethylsilane | 0.046 mol, 5.9 ml, 6.7 g | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | (1,1'-Biphenyl-4-yl)(chloromethyl)dimethylsilane | C1(=CC=C(C=C1)[Si](C)(C)CCl)C1=CC=CC=C1 | C15H17ClSi
